### ISSUE TITLE
Document or expose the Std.Internal.Do entry point required by vcgen

### ISSUE THREAD

**Issue by kfl** [leanprover/lean4#14762]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Lean 4.33 describes `vcgen` as an experimental drop-in replacement for `mvcgen`. Its missing-import diagnostic asks users to import `Std.Tactic.Do`.

However, the documented `mvcgen` entry points use the public `Std.Do` verification theory, whereas `vcgen` operates on the new `Std.Internal.Do` theory. I could not find user-facing documentation showing the imports, namespaces or soundness bridge required to enter that theory.

### Context

This is a distilled example from at private project.

#### Public `mvcgen` pattern

This follows the pattern shown in the imperative-verification documentation:

```lean4
import Std.Tactic.Do

def increment (n : Nat) : Nat := Id.run do
  return n + 1

example {n result : Nat} (h : increment n = result) :
    result = n + 1 := by
  apply Std.Do.Id.of_wp_run_eq h
  mvcgen
```

It succeeds.

Replacing `mvcgen` with `vcgen`:

```lean
example {n result : Nat} (h : increment n = result) :
    result = n + 1 := by
  apply Std.Do.Id.of_wp_run_eq h
  vcgen
```

fails with:

```
error: Unknown constant `Std.Internal.Do.Triple.intro`
```

Adding `import Std.Internal.Do` makes that constant available, but the public bridge remains incompatible:

```
error: vcgen: could not determine the program type of the goal
```

### Working `vcgen` formulation

The following formulation succeeds, but requires importing and using an internal module:

```lean4
import Std.Tactic.Do
import Std.Internal.Do

def increment (n : Nat) : Nat := Id.run do
  return n + 1

example {n result : Nat} (h : increment n = result) :
    result = n + 1 := by
  apply Std.Internal.Do.Id.of_wp_run_eq h
    (fun result => result = n + 1)
  vcgen
```

A direct Hoare-triple specification likewise uses the internal theory:

```lean4
import Std.Tactic.Do
import Std.Internal.Do

open Std.Internal.Do

-- Required in Lean 4.33.0 to activate the CompleteLattice → CCPO
-- instance. This separate issue is fixed on master by lean4#14502.
open scoped Lean.Order

def incrementM (n : Nat) : Id Nat := do
  return n + 1

example (n : Nat) :
    ⦃ True ⦄ incrementM n ⦃ result, result = n + 1 ⦄ := by
  vcgen [incrementM]
```

Lean's `tests/elab/vcgenSymBlock.lean` uses the same internal import and `Std.Internal.Do.Id.of_wp_run_eq` entry pattern, so this appears to be intentional rather than accidental. It is not, however, shown in the user-facing `mvcgen` documentation to which `vcgen` currently refers.

### Documentation/API question

Is importing and using `Std.Internal.Do` the intended user-facing way to invoke `vcgen`?

If so, could the `vcgen` documentation include a complete entry example, and could its missing-`import` diagnostic mention `Std.Internal.Do`?

If not, should `Std.Tactic.Do` expose a public soundness bridge and Hoare-triple interface compatible with `vcgen`?

At present, "drop-in replacement" and "see `mvcgen` for documentation" suggest that the public `Std.Do` entry pattern should continue to work, whereas discovering the working formulation requires consulting Lean's internal implementation or test suite.

### Versions

version 4.33.0, commit d8b18978322de05a8f3dba51ef03cf5461676c17

Confirmed on the latest nightly, Lean 4.35.0-nightly-2026-08-12 (6eb06a5ed101549d51de5ed2f81bb0454d9e6779). 

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Yes, this work will happen as part of stabilizing `vcgen`

**Comment by kfl** [comment]
Sounds good, but for now using `Std.Internal.Do` is the intended way to use `vcgen`?

BTW forgot to say that I have some cases where `vcgen` has allowed me to make my old `mvcgen` proofs much nicer. Thank you!

**Comment by Kha** [comment]
I think so, just expect the names to change during stabilization. I'll relay the thanks to @sgraf812!
